* C:\users\lyam\Documents\University\S4\APP4\GitHub\s4-app4\spice\xor_transfer.asc
V1 vdd 0 {vv}
V2 b 0 PULSE({vv} 0 1000p 1p 1p 2000p 4000p 5)
V3 N001 0 PULSE(0 0 2000p 1p 1p 2000p 4000p 5)
C1 out 0 1f
XX2 vdd out vdd 0 b xor params: XOR ll=180n wn={nnw} wp={nnw*mp}

* block symbol definitions
.subckt xor in1 Q vdd vss in2
R3 Q N010 1
R4 N010 N009 1
R5 N010 N011 1
M9 Q in1 N006 vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M10 vdd N001 N003 vdd PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M5 vdd N002 N004 vdd PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M6 N003 in2 Q vdd PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M7 N004 in1 Q vdd PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M1 Q N005 N007 vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 N006 in2 vss vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M3 N007 N008 vss vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M4 vdd in1 N001 vdd PMOS l={ll} w={wp*1} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M8 N001 in1 vss vss NMOS l={ll} w={wn*1} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M11 vdd in2 N002 vdd PMOS l={ll} w={wp*1} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M12 N002 in2 vss vss NMOS l={ll} w={wn*1} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M13 vdd in2 N005 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M14 N005 in2 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M15 vdd in1 N008 vdd PMOS l={ll} w={wp*1} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M16 N008 in1 vss vss NMOS l={ll} w={wn*1} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.lib BU_180nm.lib
.param wp1={wp*3}
.param wn1={wn*3}
.param wp2={wp*3}
.ends xor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\lyam\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=2*180n mp=2.5
.lib BU_180nm.lib
.meas tran t1 find time when v(out)=vv*0.1 rise 1
.meas tran t2 find time when v(out)=vv*0.9 rise 1
.meas tran t3 find time when v(out)=vv*0.1 fall 1
.meas tran t4 find time when v(out)=vv*0.9 fall 1
.meas tran transition_up param abs(t2-t1)
.meas tran transition_down param abs(t4-t3)
.meas tran ratio param upslope/downslope
.meas dc vi_mid param (vil+vih)/2
.meas dc vil when d(v(out))=-1 fall 1
.meas dc vih when d(v(out))=-1 rise 1
.dc V2 0 {vv} 0.01
.backanno
.end
